US08669234B2
[1-(2-{5-[4′-(2-{1-[2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyryl]-pyrrolidin-2-yl}-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester:
This compound was made in 45% yield by the same procedure as (4,4,4-Trifluoro-1-{2-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-butyl)-carbamic acid methyl ester, using [1-(2-{5-[4′-(2-Pyrrolidin-2-yl-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-3-(2,2,2-trifluoroethoxy)-propyl]-carbamic acid methyl ester as the starting material. LCMS-ESI+: calculated for C41H49F3N8O7: 822.87; observed [M+1]+: 823.45. 1H-NMR: 400 MHz, (CD3OD) δ: 7.82-7.72 (m, 4H), 7.69-7.65 (m, 4H), 7.38-7.32 (m, 2H), 5.22-5.16 (m, 2H), 4.65-4.61 (m, 1H), 4.26-4.21 (m, 1H), 4.04-3.84 (m, 6H), 3.72-3.48 (m, 8H), 2.39-1.98 (m, 10H), 1.88-1.78 (m, 1H), 1.01-0.89 (m, 6H) ppm.

reactant | (4,4,4-Trifluoro-1-{2-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-butyl)-carbamic acid methyl ester | COC(NC(CCC(F)(F)F)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C40H47F3N8O6
reactant | [1-(2-{5-[4′-(2-Pyrrolidin-2-yl-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-3-(2,2,2-trifluoroethoxy)-propyl]-carbamic acid methyl ester | COC(NC(CCOCC(F)(F)F)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1NCCC1)=O | C34H38F3N7O4
product | [1-(2-{5-[4′-(2-{1-[2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyryl]-pyrrolidin-2-yl}-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 45% yield | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(CCOCC(F)(F)F)NC(=O)OC)=O)=O | C41H49F3N8O7
